US06093737
2-Oxo-1,2-dihydropyridine-4-carboxylic acid methyl ester (1.8 g, 12.2 mmol), prepared as described in J. Org. Chem., 26, 428 (1961), was suspended in THF(100 ml). A small amount of DMF was added to help increase solubility. LiBH4 (61 mmol) was added and the reaction was stirred for 18 hours at room temperature. MeOH and H2O are added to quench the reaction. The reaction is then concentrated to yield a yellow oil. Flash chromatography (5% MeOH/CHCl3 to 20% MeOH/CHCl3) yielded 4-hydroxymethyl-1H-pyridin-2-one as a white solid.

reactant | 2-Oxo-1,2-dihydropyridine-4-carboxylic acid methyl ester | 12.2 mmol, 1.8 g | COC(=O)C1=CC(NC=C1)=O | C7H7NO3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | LiBH4 | 61 mmol | [Li+].[BH4-]
reactant | MeOH | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | H2O | O | H2O
product | 4-hydroxymethyl-1H-pyridin-2-one | OCC1=CC(NC=C1)=O | C6H7NO2
